US05705654
1,3 bis-[(tetrahydro-2H-pyran-2-yl)oxy]-2-propanone
9 g of 2,5-dihydroxy-1,4-dioxane-2,5-dimethanol were introduced into 60 ml of dioxane and the suspension was taken to about 70° C. for 15 minutes, then taken to ambient temperature. Then, 20 ml of 3,4-dihydro-2H-pyran and 300 mg of monohydrated p-toluene sulfonic acid were added. The temperature was held at about 40° C. and then the reaction medium stood overnight at ambient temperature. It was then poured into a mixture of 300 ml of a saturated solution of sodium bicarbonate+10 ml of triethylamine and extraction was carried out 4 times with methylene chloride. The organic phase was washed with salt water and dried. After purification by passing through silica with ethyl cycloacetate/triethylamine: 8/2 as eluant, 17 g of the expected product (pale yellow syrup) were obtained.

reactant | 2,5-dihydroxy-1,4-dioxane-2,5-dimethanol | 9 g | OC1(OCC(OC1)(CO)O)CO | C6H12O6
reactant | dioxane | 60 ml | O1CCOCC1 | C4H8O2
reactant | 3,4-dihydro-2H-pyran | 20 ml | O1CCCC=C1 | C5H8O
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1,3 bis-[(tetrahydro-2H-pyran-2-yl)oxy]-2-propanone | 17 g | O1C(CCCC1)OCC(COC1OCCCC1)=O | C13H22O5
